### PR TITLE
Erdős Problem 92

### LINKED ISSUE #325: Erdős Problem 92
### What is the conjecture
    
https://www.erdosproblems.com/92

  Let $f(n)$ be maximal such that there exists a set $A$ of $n$ points in $\mathbb{R}^2$ in which every $x\in A$ has at least $f(n)$ points in $A$ equidistant from $x$. Is it true that $f(n)\leq n^{o(1)}$? Or even $f(n) < n^{c/\log\log n}$ for some constant $c>0$?

### PR DESCRIPTION
**Pull request by mo271**
fixes #325

### CODE REVIEW

File: FormalConjectures/ErdosProblems/92.lean [hunk 1]
```diff
@@ -0,0 +1,94 @@
...
+namespace Erdos92
+
+/--
+For a given point `x` and a set of other points, this function finds the maximum number of points
+that lie on a single circle centered at `x`. It does this by grouping the other points by their
+distance to `x` and finding the size of the largest group.
+-/
+noncomputable def maxEquidistantPointsAt (x : ℝ²) (points : Finset ℝ²) : ℕ :=
+  let otherPoints := points.erase x
+  let distances := otherPoints.image (dist x)
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/92.lean]: To make unfolding the definition a little nicer
```suggestion
  letI otherPoints := points.erase x
  letI distances := otherPoints.image (dist x)
```

File: FormalConjectures/ErdosProblems/92.lean [hunk 2]
```diff
@@ -0,0 +1,94 @@
...
+  unfold Erdos92.maxEquidistantPointsAt at *
+  sorry
+
+
+/--
+Let $f(n)$ be maximal such that there exists a set $A$ of $n$ points in $\mathbb^2$
+in which every $x \in A$ has at least $f(n)$ points in $A$ equidistant from $x$.
+-/
+noncomputable def f (n : ℕ) : ℕ := sSup <| possible_f_values n
+
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/92.lean:72]:
```suggestion
```

File: FormalConjectures/ErdosProblems/92.lean [hunk 3]
```diff
@@ -0,0 +1,94 @@
...
+This ensures `sSup` is well-defined.
+-/
+@[category test, AMS 52]
+theorem possible_f_values_BddAbove (n : ℕ) : BddAbove (possible_f_values n) := by
+  use n - 1
+  rintro k ⟨points, h_card, h_prop⟩
+  unfold Erdos92.hasMinEquidistantProperty at *
+  unfold Erdos92.maxEquidistantPointsAt at *
+  sorry
+
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/92.lean:66]:
```suggestion
```

File: FormalConjectures/ErdosProblems/92.lean [hunk 4]
```diff
@@ -0,0 +1,94 @@
...
+  let distances := otherPoints.image (dist x)
+  sSup (distances.image fun d ↦ (otherPoints.filter fun p ↦ dist x p = d).card)
+
+/--
+This property holds for a set of points `A` if every point `x` in `A` has at least `k` other
+points from `A` that are equidistant from `x`.
+-/
+def hasMinEquidistantProperty (k : ℕ) (A : Finset ℝ²) : Prop :=
+  A.Nonempty ∧ ∀ x ∈ A, k ≤ maxEquidistantPointsAt x A
+
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/92.lean:46]:
```suggestion
```
